US07863271B2
To a solution of methyl 2-amino-6-fluoro-3-hydroxybenzoate (0.4 g, 2.2 mmol) in THF (10 mL) was added di-(1H-imidazole-1-yl)methanamine (0.44 g, 2.75 mmol) at room temperature and the resulting reaction mixture was heated at reflux for 16 h. The reaction mixture cooled to room temperature and was concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (100 mL), and the solution was treated with saturated aqueous ammonium chloride (25 mL). The organic layer was separated and the aqueous layer was extracted with additional CH2Cl2 (2×100 mL). The combined organic phase was washed with brine (2×100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to afford a yellow solid. The solid was triturated from ether to afford methyl 2-amino-5-fluorobenzoxazole-4-carboxylate. MS consistent.

reactant | methyl 2-amino-6-fluoro-3-hydroxybenzoate | 2.2 mmol, 0.4 g | NC1=C(C(=O)OC)C(=CC=C1O)F | C8H8FNO3
reactant | di-(1H-imidazole-1-yl)methanamine | 2.75 mmol, 0.44 g | N1(C=NC=C1)C(N)N1C=NC=C1 | C7H9N5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 2-amino-5-fluorobenzoxazole-4-carboxylate | NC=1OC=2C(N1)=C(C(=CC2)F)C(=O)OC | C9H7FN2O3
